US05189054
Dissolve 3-[(phenacyl)methylamino]-2-carbethoxy- 6-nitro-1-(tert-butyloxycarbonyl)-indole from above in methylene chloride. Add excess trifluoracetic acid and stir overnight at room temperture. Concentrate the reaction in vacuo, dilute with ethyl acetate and rinse with saturated sodium bicarbonate, dry over magnesium sulfate, filter and concentrate in vacuo to yield 3-[(phenacyl)methylamino]-2-carbethoxy-6-nitroindole.

reactant | 3-[(phenacyl)methylamino]-2-carbethoxy- 6-nitro-1-(tert-butyloxycarbonyl)-indole | C(C(=O)C1=CC=CC=C1)CNC1=C(N(C2=CC(=CC=C12)[N+](=O)[O-])C(=O)OC(C)(C)C)C(=O)OCC | C25H27N3O7
reactant | trifluoracetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[(phenacyl)methylamino]-2-carbethoxy-6-nitroindole | C(C(=O)C1=CC=CC=C1)CNC1=C(NC2=CC(=CC=C12)[N+](=O)[O-])C(=O)OCC | C20H19N3O5
